US06797823B1
N′-{2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}-N,N-dimethylurea
2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-aniline (50 mg) was dissolved in chloroform (2 ml) and triethylamine (0.5 ml), and a solution of triphosgene (48 mg) in chloroform was then added to the solution. The mixture was stirred at room temperature for 30 min. Next, the reaction solution was cooled to −78° C. and dimethylamine hydrochloride (250 mg) was added to the cooled reaction solution. The temperature of the mixture was spontaneously raised, and the mixture was further stirred at room temperature overnight. Methanol was added to the reaction solution, and the mixture was purified by HPLC by development with chloroform/methanol to give 33 mg (yield 53%) of the title compound.

reactant | 2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-aniline | 50 mg | ClC1=C(N)C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC | C16H14ClN3O3
reactant | triphosgene | 48 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | dimethylamine hydrochloride | 250 mg | Cl.CNC
reactant | Methanol | CO | CH4O
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | N′-{2-Chloro-4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}-N,N-dimethylurea | 33 mg, yield 53% | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OC)NC(N(C)C)=O | C19H19ClN4O4
